US03950385
A solution of 4.4 grams (50 mmoles) of cyclohexane in 50 milliliters of carbon tetrachloride containing 1 milliliter of concentrated sulfuric acid was treated with 6.9 grams of N2O4 and 21 grams of oxygen at about 5°C. Analysis of the isolated product (7.3 grams) showed it consisted of a mixture of 2-nitrocyclohexyl nitrate (30 percent yield), 2-nitrocyclohexanol, nitrocyclohexane and carboxylic acids.

reactant | cyclohexane | 50 mmoles, 4.4 grams | C1CCCCC1 | C6H12
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | oxygen | 21 grams | O=O | O2
reactant | 2-nitrocyclohexanol | [N+](=O)([O-])C1C(CCCC1)O | C6H11NO3
reactant | nitrocyclohexane | [N+](=O)([O-])C1CCCCC1 | C6H11NO2
solvent | carbon tetrachloride | 50 milliliters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-nitrocyclohexyl nitrate | 30 percent yield | [N+](=O)(OC1C(CCCC1)[N+](=O)[O-])[O-] | C6H10N2O5
